US07897631B2
tert-butyl 2-amino-4-(hept-6-ynyl)-1H-imidazole-1-carboxylate (0.070 g, 0.253 mmol) was reacted with N-(2-azidoethyl)-4-tert-butylbenzamide (0.062 g, 0.253 mmol) following the general click procedure to give tert-butyl 2-amino-4-(5-(1-(2-(4-tert-butylbenzamido)ethyl)-1H-1,2,3-triazol-4-yl)pentyl)-1H-imidazole-1-carboxylate 1H NMR (300 MHz, CDCl3) δ 7.71 (d, 2H), δ 7.64 (t, 1H), δ 7.36 (d, 2H), δ 7.27 (s, 1H), δ 6.42 (s, 1H), δ 5.99 (s, 2H), δ 4.51 (t, 2H), δ 3.88 (q, 2H), δ 2.58 (t, 2H), δ 2.22 (t, 2H), δ 1.52 (m, 13H), δ 1.21 (m, 11H) ppm; 13C NMR (75 MHz, CDCl3) δ 168.2, 155.3, 150.4, 149.6, 148.3, 138.9, 131.2, 127.3, 125.6, 122.2, 106.5, 84.8, 49.4, 40.2, 35.1, 31.3, 31.1, 29.3, 28.9, 28.3, 28.2, 28.1, 25.6 ppm; HRMS (ESI) calcd for C28H41N7O3 (M+) 523.3271. found 523.3270, which was subsequently deprotected to give N-(2-(4-(5-(2-amino-1H-imidazol-4-yl)pentyl)-1H-1,2,3-triazol-1-yl)ethyl)-4-tert-butylbenzamide hydrochloride (0.105 g, 90% yield). 1H NMR (400 MHz, CD3OD) δ 8.48 (s, 1H), δ 7.76 (d, 2H), δ 7.48 (d, 2H), δ 6.50 (s, 1H), δ 4.84 (s, 2H), δ 3.95 (s, 2H), δ 2.85 (s, 2H), δ 2.46 (t, 2H), δ 1.73 (s, 2H), δ 1.57 (m, 2H), δ 1.39 (s, 2H), δ 1.31 (s, 9H) ppm; 13C NMR (100 MHz, CD3OD) δ 169.2, 155.6, 147.3, 130.8, 129.9, 127.6, 127.2, 127.1, 126.7, 125.4, 125.3, 119.5, 108.6, 108.5, 52.3, 39.4, 34.6, 30.4, 27.9, 27.8, 27.6, 24.1, 23.2, 22.2 ppm; HRMS (ESI) calcd for C23H33N7O (M+) 423.2747. found 423.2741.

reactant | tert-butyl 2-amino-4-(hept-6-ynyl)-1H-imidazole-1-carboxylate | 0.253 mmol, 0.070 g | NC=1N(C=C(N1)CCCCCC#C)C(=O)OC(C)(C)C | C15H23N3O2
reactant | N-(2-azidoethyl)-4-tert-butylbenzamide | 0.253 mmol, 0.062 g | N(=[N+]=[N-])CCNC(C1=CC=C(C=C1)C(C)(C)C)=O | C13H18N4O
product | tert-butyl 2-amino-4-(5-(1-(2-(4-tert-butylbenzamido)ethyl)-1H-1,2,3-triazol-4-yl)pentyl)-1H-imidazole-1-carboxylate | NC=1N(C=C(N1)CCCCCC=1N=NN(C1)CCNC(C1=CC=C(C=C1)C(C)(C)C)=O)C(=O)OC(C)(C)C | C28H41N7O3
